US04634710
7.8 g of 5,7-dihydro-2-mercapto-5,5,7,7-tetramethylindeno[5,6-d]imidazol-6(1H)-one were suspended in 200 ml of alcohol and the suspension was treated while cooling with ice with 6.3 g of 2-chloromethyl-4-methoxy-5-methylpyridine hydrochloride. Thereafter, 2.4 g of sodium hydroxide in 100 ml of water were added dropwise thereto, the mixture was left to boil at reflux overnight and subsequently evaporated to dryness in vacuo. The residue was dissolved in 500 ml of methylene chloride. The solution was washed firstly with 250 ml of 1.5N sodium hydroxide solution and then with 3×250 ml of water, dried over sodium sulfate and evaporated in vacuo. The product was purified on 150 g of silica gel with ethyl acetate/methylene chloride (1:1) as the elution agent. Crystallization from methylene chloride/petroleum ether gave 5,7-dihydro-2-[[(4-methoxy-5-methyl-2-pyridyl)methyl]thio]-5,5,7,7-tetramethylindeno[5,6-d]imidazol-6(1H)-one of melting point 204°-205°.

reactant | 5,7-dihydro-2-mercapto-5,5,7,7-tetramethylindeno[5,6-d]imidazol-6(1H)-one | 7.8 g | SC1=NC2=C(N1)C=C1C(C(C(C1=C2)(C)C)=O)(C)C | C14H16N2OS
reactant | 2-chloromethyl-4-methoxy-5-methylpyridine hydrochloride | 6.3 g | Cl.ClCC1=NC=C(C(=C1)OC)C
reactant | sodium hydroxide | 2.4 g | [OH-].[Na+]
solvent | water | 100 ml | O | H2O
product | 5,7-dihydro-2-[[(4-methoxy-5-methyl-2-pyridyl)methyl]thio]-5,5,7,7-tetramethylindeno[5,6-d]imidazol-6(1H)-one | COC1=CC(=NC=C1C)CSC1=NC2=C(N1)C=C1C(C(C(C1=C2)(C)C)=O)(C)C | C22H25N3O2S
